* ============================================================
* Shared sensor ground -- single-ended vs differential
* ECU pin 34: boost P&T and coolant temperature, splice V3
* ============================================================
* Research memo 09 found that both Deep Sea Electronics and
* SEDEMAC treat ground offset as a first-class problem: DSE
* specifies +/-2 V of common-mode rejection on every sender
* channel, SEDEMAC insists on a dedicated sensor common point
* bonded to the engine body. This block is that finding turned
* into numbers for this specific harness.
*
* The OEM wiring shares pin 34 between the boost sensor and the
* coolant sensor (refs/ecu-pinout-extracted.md, splice V3). A
* shared return carries BOTH sensors' currents, so the coolant
* sensor's supply current develops a voltage across the harness
* ground resistance -- and the boost sensor's output is referenced
* to that moving ground, not to the ECU's.
*
* A single-ended front-end measures sensor-output-to-ECU-ground
* and reads that offset as signal. A differential front-end
* measures sensor-output-to-sensor-ground and does not.
*
* Note what the OEM did with the channel that could not tolerate
* this: rail pressure gets pin 08, a DEDICATED ground, spliced
* with nothing. Whoever drew that harness ranked the channels by
* how much ground offset each could stand. This block quantifies
* the ranking.
*
* Swept variable is the shared return's resistance -- wire plus
* two connector contacts, which is the number that degrades with
* corrosion and age. A clean harness is tens of milliohms; a
* corroded contact is ohms, and it gets there slowly enough that
* nobody notices the readings drifting.
* ============================================================

* Coolant sensor's return current, flowing out through the shared
* ground. 20 mA is a typical ratiometric sensor's supply draw.
Ib  0 gs DC 20m

* The shared harness ground. Swept.
Rg  gs 0 1

* Boost sensor: 2.5 V referenced to ITS OWN ground pin, which is
* what a real sensor produces. Mid-scale output.
Va  sa gs DC 2.5

* ---- single-ended front-end: measures against ECU ground ----
* Same 10k/16k divider as the sensor_ratiometric block.
R1  sa nse 10k
R2  nse 0  16k

* ---- differential front-end: measures sensor minus sensor-ground --
* Gain matched to the divider's exact 16/26 so the two are compared on
* equal terms. The second term is finite common-mode rejection at
* 80 dB, which is a realistic instrumentation-amp figure -- an
* ideal difference would flatter the topology unfairly.
Bd  nd 0 V = (16/26)*(v(sa)-v(gs)) + 1e-4*(v(sa)+v(gs))/2

.control
* From a clean harness to a badly corroded one.
dc Rg 0.01 2 0.01
wrdata sensor_differential.dat v(nse) v(nd) v(gs)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE -- the error is small, and that is the point
* ------------------------------------------------------------
* 20 mA through 1 ohm is 20 mV of ground offset, which the
* single-ended front-end turns into about 12 mV of reading error
* after the divider -- roughly half a percent of the 2.46 V span.
* Nobody would call that a failure.
*
* It matters for three reasons that the raw number does not show:
*
*   1. It is a BIAS, not noise. It does not average out, it is
*      always in the same direction, and it tracks whatever the
*      other sensor on the splice is doing.
*   2. It grows with age. Contact resistance is the parameter
*      that degrades, and nothing in the system reports it.
*   3. It is indistinguishable from a real reading. A boost
*      pressure that is biased high permits more fuel, and the
*      first symptom is smoke rather than a fault code.
*
* The differential front-end removes it for the cost of one part
* and gives back a channel whose accuracy does not depend on
* harness condition. Against a design that has to survive years
* on an engine, that is the trade worth making.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- tolerance
* ------------------------------------------------------------
* The binding parameter is the differential front-end's own CMRR,
* modelled as the 1e-4 coefficient on the common-mode term in Bd
* (80 dB, called out in the header as "a realistic instrumentation-
* amp figure" -- INFERRED, no part chosen). It sets the differential
* error directly and therefore both checks that depend on it. Ib
* (20 mA coolant sensor draw) was not swept the same way: it scales
* the ground offset and both error terms together, so it moves the
* absolute numbers but not the single-ended-vs-differential
* comparison this block is actually making.
*
* Re-ran the CMRR term at three values in scratch copies, not this
* file (80 dB nominal, then two corners down):
*
*     CMRR=80 dB (1e-4, nominal)  diff error 0.13 mV  ratio  96x  PASS both
*     CMRR=70 dB (3.16e-4)        diff error 0.40 mV  ratio  31x  PASS ratio, FAILS error check (>0.33 mV bound)
*     CMRR=60 dB (1e-3)           diff error 1.27 mV  ratio 9.6x  FAILS both
*
* 80 dB is a plausible datasheet CMRR for a dedicated in-amp IC at
* matched source impedance, and by that reading 60-70 dB looks like
* "a worse chip." But CMRR is not purely a chip spec -- it also
* degrades with imbalance between the two input paths' source
* impedances, and this block's own subject is exactly that: a
* corroding harness return whose resistance this netlist already
* sweeps to 2 ohm. An installed CMRR of 60-70 dB under a degraded,
* imbalanced harness is not an exotic assumption for THIS circuit
* specifically, even with a good chip on the board.
*
* THE TARGET IS PARTLY UNREAL, in the same shape as
* metering_unit_pwm's mean-current check: "0.13 mV" and "96x" are
* this simulation's own output at an assumed, unsourced 80 dB, not
* an independently stated requirement. What the design actually
* promises -- differential meaningfully beats single-ended, "for
* the cost of one part" -- survives easily even at the worst corner
* tried: 9.6x better at 60 dB CMRR is still a real, useful margin,
* just not the ~96x the nominal-CMRR numbers advertise. Read a FAIL
* on the "0.13 mV" or "better by 90x" checks as CMRR uncertainty
* (chip choice, or harness-driven source-impedance imbalance), not
* as the differential front-end failing to do its job.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- temperature
* ------------------------------------------------------------
* R1/R2 (single-ended divider): near-immune, same matched-family
* resistor reasoning as battery_sense.cir -- not the binding
* parameter here either way.
*
* CMRR is the binding parameter (established above), and it is a
* real in-amp chip spec that commonly degrades a few dB at
* temperature extremes on top of its 25 C datasheet number (no part
* chosen, so no specific curve to apply -- INFERRED direction and
* order of magnitude only). This does not need a new corner run: the
* TOLERANCE section above already swept CMRR itself down to 60 dB
* and 70 dB and found what a degraded CMRR does to both checks
* (70 dB fails the absolute-error check, 60 dB fails both). A few dB
* of temperature-driven CMRR loss on top of a marginal real part
* lands inside a range this file has already characterised -- it is
* not a separate temperature axis, it is the SAME sensitivity this
* block already reports, with one more real-world cause (ambient
* temperature, alongside harness imbalance) feeding into it. The
* header's own point holds: read a degraded-CMRR failure as CMRR
* uncertainty from any of several causes now including temperature,
* not as the differential topology failing to do its job.
* ------------------------------------------------------------
